US05880126
998 mg of 6-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-1-methylethyl-ester (2.4 mmol) is introduced into 10 ml of dry tetrahydrofuran and deprotonated at 0° C. with 72 mg of sodium hydride (80% suspension in oil) (2.4 mmol). Then, it is stirred for 20 minutes at room temperature, mixed with 630 mg of 2-[N-methyl-N-(2-phenylethyl)-amino]-2-bromoacetamide (2.4 mmol)--dissolved in 10 ml of tetrahydrofuran--stirred for another 5 hours at room temperature, filtered on diatomaceous earth, and then the solvent is drawn off in a vacuum. The crude product that is obtained is recrystallized from dichloromethane/diethyl ether, and 1.22 g of 6-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)amino]-2-oxoethyl}-9H-pyrido-[3,4-b]indole-3-carboxylic acid-(1-methyl-ethyl)-ester is obtained.

reactant | 6-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-1-methylethyl-ester | 2.4 mmol, 998 mg | CC(C)OC(=O)C1=C(C2=C(NC3=CC=C(C=C23)OCC2=CC=CC=C2)C=N1)COC | C24H24N2O4
reactant | sodium hydride | 2.4 mmol, 72 mg | [H-].[Na+]
reactant | 2-[N-methyl-N-(2-phenylethyl)-amino]-2-bromoacetamide | 2.4 mmol, 630 mg | CN(CCC1=CC=CC=C1)C(C(=O)N)Br | C11H15BrN2O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)amino]-2-oxoethyl}-9H-pyrido-[3,4-b]indole-3-carboxylic acid-(1-methyl-ethyl)-ester | 1.22 g | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=C(C=C23)OCC2=CC=CC=C2)CC(=O)N(CCC2=CC=CC=C2)C)C=N1)COC | C35H37N3O5
